US07943609B2
4-[(11S)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenyl acetate (2.95 g, 7.91 mmol) was dissolved in 80 mL of CHCl3 and treated with MCPBA (2.33 g, 77% max). After stirring for 18 hours, the reaction was treated with 25 mL of a 2% Na2CO3 solution and the layers were separated. The aqueous layer was then extracted with CHCl3 (4×20 mL). The combined organic layers were washed with 20 mL of brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give 4-{[(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenyl acetate (3.08 g) as a tan solid.

reactant | 4-[(11S)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenyl acetate | 7.91 mmol, 2.95 g | C(C)(=O)OC1=CC=C(C=C1)C[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C22H19N3O3
reactant | MCPBA | 2.33 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-{[(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenyl acetate | 3.08 g | C(C)(=O)OC1=CC=C(C=C1)C[C@H]1COCC=2N1C1=C(C=[N+](C3=CC=CC=C13)[O-])N2 | C22H19N3O4
